US09035073B2
Enantiomer 2 of 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine
To a solution of (−)-3-(3,4-difluorophenyl)-3-methoxypyrrolidine (0.013 g, 0.061 mmol) and triethylamine (17.1 μL, 0.122 mmol) in tetrahydrofuran (2 ml), was added iodoethane (7.3 μL, 0.091 mmol), the resulting solution was stirred at ambient temperature for 24 h. The crude mixture was purified on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1). The solvent was evaporated and the crude product was analyzed by GCMS. Analysis showed 76% conversion. MS m/z (relative intensity, 70 eV) 241 (M+, 7), 226 (57), 211 (24), 141 (43), 71 (bp).

reactant | (−)-3-(3,4-difluorophenyl)-3-methoxypyrrolidine | 0.061 mmol, 0.013 g | FC=1C=C(C=CC1F)C1(CNCC1)OC | C11H13F2NO
reactant | triethylamine | 0.122 mmol, 17.1 μL | C(C)N(CC)CC | C6H15N
reactant | iodoethane | 0.091 mmol, 7.3 μL | ICC | C2H5I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine | FC=1C=C(C=CC1F)C1(CN(CC1)CC)OC | C13H17F2NO
